US05418231
To a solution of the 5-hydroxy-3-propylpyrimidine-2,4(1H,3H)-dione (0.85 g) in ethanol (40 ml), N-bromosuccinimide (0.98 g) was added in portions at room temperature. The mixture was stirred for 30 min. 2-Aminobenzenethiol (0.94 g) was added and the mixture was heated at reflux for one hour. After cooling, the precipitate was collected to give 1,5-dihydro-3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione (1.20 g, 87% yield).

reactant | 5-hydroxy-3-propylpyrimidine-2,4(1H,3H)-dione | 0.85 g | OC=1C(N(C(NC1)=O)CCC)=O | C7H10N2O3
reactant | N-bromosuccinimide | 0.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-Aminobenzenethiol | 0.94 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1,5-dihydro-3-propyl-2H-pyrimido[4,5-b][1,4]benzothiazine-2,4(3H)-dione | 1.20 g, 87% yield | C(CC)N1C(NC=2SC3=C(NC2C1=O)C=CC=C3)=O | C13H13N3O2S
